US08138333B2
1-[(3,5-Dimethylphenyl)sulfonyl]-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole hydrochloride
The title compound was prepared from tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate, Intermediate 12 (14 mg, 0.05 mmol) and 3,5-dimethylbenzenesulfonyl chloride (15 mg, 0.75 mmol) as described in the general procedure above, to give 8.9 mg of product. MS (ESI) m/z 341 [M+H]+.

reactant | tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | N1C=C2C=3C(=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C16H20N2O2
reactant | 3,5-dimethylbenzenesulfonyl chloride | 0.75 mmol, 15 mg | CC=1C=C(C=C(C1)C)S(=O)(=O)Cl | C8H9ClO2S
product | 1-[(3,5-Dimethylphenyl)sulfonyl]-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole hydrochloride | Cl.CC=1C=C(C=C(C1)C)S(=O)(=O)N1C=C2C=3C(=CC=CC13)CNCC2 | InChI=1S/C19H20N2O2S.ClH/c1-13-8-14(2)10-17(9-13)24(22,23)21-12-16-6-7-20-11-15-4-3-5-18(21)19(15)16;/h3-5,8-10,12,20H,6-7,11H2,1-2H3;1H
